US08835465B2
N-(5-Cyclopropyl-1H-pyrazol-3-yl)-3,6-difluoropyridin-2-amine
A solution of tert-butyl 5-amino-3-cyclopropyl-1H-pyrazole-1-carboxylate (1.00 g, 4.49 mmol) in THF (15 ml) was cooled to −78° C. t-BuLi (1.7 M in THF, 4.15 mmol) was added dropwise and the resulting solution was stirred for 30 min. at −78° C. A solution of 2,3,6-trifluoropyridine (0.46 g, 3.4 mmol) in THF (5 ml) was added, and the resulting solution was stirred for 5 min at −78° C., and then the reaction was warmed to 0° C., and stirred at that temperature for 30 min. The reaction was quenched with aq. NH4Cl and extract with EtOAc (2×20 ml). The organic fractions were dried over Na2SO4, filtered, and concentrated. The resulting oil was then placed in ACN (15 ml) at 0° C., and N-trimethylsilylimidazole (0.5 ml) was added. The reaction was stirred for 20 min, and then concentrated. The resulting oil was purified by column chromatography (DCM-MeOH=100:1) to give the title compound (0.10 g, 12%). MS: Calcd.: 236. Found: [M+H]+ 237.

reactant | tert-butyl 5-amino-3-cyclopropyl-1H-pyrazole-1-carboxylate | 4.49 mmol, 1.00 g | NC1=CC(=NN1C(=O)OC(C)(C)C)C1CC1 | C11H17N3O2
reactant | t-BuLi | 4.15 mmol, 1.7 M | [Li]C(C)(C)C
reactant | 2,3,6-trifluoropyridine | 3.4 mmol, 0.46 g | FC1=NC(=CC=C1F)F | C5H2F3N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(5-Cyclopropyl-1H-pyrazol-3-yl)-3,6-difluoropyridin-2-amine | 0.10 g, 12% | C1(CC1)C1=CC(=NN1)NC1=NC(=CC=C1F)F | C11H10F2N4
